US07951950B2
To a solution of cis-1-(6-chloro-pyridine-3-carbonyl)-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid methyl ester (620 mg, 1.8 mmol) in ethylene glycol dimethyl ether (6.00 mL) was added at 0° C. a 5M solution of sodium methoxide in methanol (3.3 mL, 16.2 mmol). The reaction mixture was stirred at room temperature for 20 hours. The reaction mixture was acidified to pH 1 by addition of aqueous 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated in vacuo to yield 1-(6-methoxy-pyridine-3-carbonyl)-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid (190 mg, 32%).

reactant | cis-1-(6-chloro-pyridine-3-carbonyl)-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid methyl ester | 1.8 mmol, 620 mg | COC(=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C=1C=NC(=CC1)Cl)C | C18H17ClN2O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 16.2 mmol, 3.3 mL | CO | CH4O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethylene glycol dimethyl ether | 6.00 mL | COCCOC | C4H10O2
product | 1-(6-methoxy-pyridine-3-carbonyl)-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid | 190 mg, 32% | COC1=CC=C(C=N1)C(=O)N1C(CC(C2=CC=CC=C12)C(=O)O)C | C18H18N2O4
